US08236826B2
Production of N-[6-(4-{4-[2-(4-benzylpiperazin-1-yl)-2-oxoethyl]piperidin-1-yl}-2-methylphenoxy)pyridin-3-yl]-3,4-dichlorobenzenesulfonamide
To a solution of (1-{4-[5-(3,4-dichlorobenzenesulfonylamino)pyridin-2-yloxy]-3-methylphenyl}piperidine-4-yl)acetic acid (1.70 g, 3.1 mmol) and 1-benzylpiperazine (0.71 g, 4.0 mmol) in DMF (40 mL) were added triethylamine (1.08 mL, 7.8 mmol) and diethyl cyanophosphonate (0.76 g, 4.3 mmol) under ice cooling, and the resulting solution was stirred for 1 hour under ice cooling. To this reaction solution was added a saturated sodium bicarbonate solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium bicarbonate solution and brine, dried over anhydrous sodium sulfate, and evaporated. The residue was purified by silica gel column chromatography (dichloromethane:methanol=40:1), after which the resulting product was recrystallized from ethanol, to thereby yield 1.61 g of the title compound.

reactant | (1-{4-[5-(3,4-dichlorobenzenesulfonylamino)pyridin-2-yloxy]-3-methylphenyl}piperidine-4-yl)acetic acid | 3.1 mmol, 1.70 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC=1C=CC(=NC1)OC1=C(C=C(C=C1)N1CCC(CC1)CC(=O)O)C | C25H25Cl2N3O5S
reactant | 1-benzylpiperazine | 4.0 mmol, 0.71 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 7.8 mmol, 1.08 mL | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 4.3 mmol, 0.76 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N-[6-(4-{4-[2-(4-benzylpiperazin-1-yl)-2-oxoethyl]piperidin-1-yl}-2-methylphenoxy)pyridin-3-yl]-3,4-dichlorobenzenesulfonamide | C(C1=CC=CC=C1)N1CCN(CC1)C(CC1CCN(CC1)C1=CC(=C(OC2=CC=C(C=N2)NS(=O)(=O)C2=CC(=C(C=C2)Cl)Cl)C=C1)C)=O | C36H39Cl2N5O4S
